US06166006
Under argon atmosphere, 6-methoxy-1-indanone (10.0 g) was dissolved in xylene (10 ml), and to the mixture was added aluminum chloride (16.4 g). The mixture was refluxed for 2 hours and then cooled to room temperature. To the mixture was added 3N hydrochloric acid (100 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate) to give 6-hydroxy-1-indanone (7.36 g) as pale brown crystals.

reactant | 6-methoxy-1-indanone | 10.0 g | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
reactant | aluminum chloride | 16.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 3N, 100 ml | Cl | ClH
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-hydroxy-1-indanone | 7.36 g | OC1=CC=C2CCC(C2=C1)=O | C9H8O2
